US05965559
Using an analogous procedure to that described in Example 2, 2-naphthylsulphonyl chloride was reacted with methyl 4-aminobutyrate to give methyl 4-(2-naphthalenesulphonamido)butyrate in 94% yield.

reactant | 2-naphthylsulphonyl chloride | C1=C(C=CC2=CC=CC=C12)S(=O)(=O)Cl | C10H7ClO2S
reactant | methyl 4-aminobutyrate | NCCCC(=O)OC | C5H11NO2
product | methyl 4-(2-naphthalenesulphonamido)butyrate | 94% yield | C1=C(C=CC2=CC=CC=C12)S(=O)(=O)NCCCC(=O)OC | C15H17NO4S
